### PR TITLE
[Merged by Bors] - feat: Module theory theorems

### PR DESCRIPTION
**Pull request by abeldonate**
Added three theorems:
- annihilator_sup
- torsionOf_eq_annihilator_span_singleton
- annihilator_eq_iInf_torsionOf

### CODE REVIEW

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 1]
```diff
@@ -112,6 +112,19 @@ theorem torsionOf_eq_bot_iff_of_noZeroSMulDivisors [IsDomain R] [Module.IsTorsio
   · rw [mem_torsionOf_iff, smul_eq_zero] at hr
     tauto
 
+@[simp]
```
Comment (wwylele) [inline Mathlib/Algebra/Module/Torsion/Basic.lean:115]: As the CI error shows, this breaks simp in some other files so it might not be a good global simp lemma

Comment (abeldonate) [reply Mathlib/Algebra/Module/Torsion/Basic.lean:115]: I think it broke some other files because of the namespace I was using, now it should be fixed.

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 2]
```diff
@@ -112,6 +112,18 @@ theorem torsionOf_eq_bot_iff_of_noZeroSMulDivisors [IsDomain R] [Module.IsTorsio
   · rw [mem_torsionOf_iff, smul_eq_zero] at hr
     tauto
 
+theorem torsionOf_eq_annihilator_span_singleton {R M : Type*} [CommSemiring R]
+    [AddCommMonoid M] [Module R M] (x : M) :
+    torsionOf R M x = (Submodule.span R ({x} : Set M)).annihilator := by
```
Comment (scholzhannah) [inline Mathlib/Algebra/Module/Torsion/Basic.lean]:
```suggestion
    [AddCommMonoid M] [Module R M] (x : M) : torsionOf R M x = (R ∙ x).annihilator := by
```
I think this would be the idiomatic way to write this. Lean even already displays it like this in the infoview.

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 3]
```diff
@@ -112,6 +112,18 @@ theorem torsionOf_eq_bot_iff_of_noZeroSMulDivisors [IsDomain R] [Module.IsTorsio
...
+  have := (Submodule.annihilator_span_singleton (R := R) (M := M) x).symm
+  simpa [torsionOf]
```
Comment (scholzhannah) [inline Mathlib/Algebra/Module/Torsion/Basic.lean]:
```suggestion
    torsionOf R M x = (Submodule.span R ({x} : Set M)).annihilator :=
  (Submodule.annihilator_span_singleton x).symm
```
I'm not 100% sure if we want this lemma given that it is just restating `Submodule.annihilator_span_singleton` but I think it is probably still useful for discoverability.

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 4]
```diff
@@ -934,6 +934,12 @@ theorem annihilator_iSup (ι : Sort w) (f : ι → Submodule R M) :
       (fun i ↦ mem_annihilator.1 <| (mem_iInf _).mp H i) (smul_zero _)
       fun m₁ m₂ h₁ h₂ ↦ by simp_rw [smul_add, h₁, h₂, add_zero]
 
+theorem annihilator_sup (N P : Submodule R M) :
+    (N ⊔ P).annihilator = N.annihilator ⊓ P.annihilator := by
+  have := annihilator_iSup Bool (Bool.rec N P)
+  simp only [iSup_bool_eq, iInf_bool_eq] at this
+  rwa [sup_comm, inf_comm]
```
Comment (scholzhannah) [inline Mathlib/RingTheory/Ideal/Maps.lean]:
```suggestion
  simpa [iSup_bool_eq, iInf_bool_eq] using annihilator_iSup Bool (Bool.rec P N)
```
This is a little shorter.

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! I have left some comments on style.

**Comment by scholzhannah** [comment]
After you have done/replied to everything suggested during review you should comment "-awaiting-author" so that the label gets removed. Otherwise you stay off the review queue and won't get more reviews.

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 5]
```diff
@@ -934,6 +934,10 @@ theorem annihilator_iSup (ι : Sort w) (f : ι → Submodule R M) :
       (fun i ↦ mem_annihilator.1 <| (mem_iInf _).mp H i) (smul_zero _)
       fun m₁ m₂ h₁ h₂ ↦ by simp_rw [smul_add, h₁, h₂, add_zero]
 
+theorem annihilator_sup (N P : Submodule R M) :
+    (N ⊔ P).annihilator = N.annihilator ⊓ P.annihilator := by
+  simpa [iSup_bool_eq, iInf_bool_eq] using annihilator_iSup Bool (Bool.rec P N)
```
Comment (ocfnash) [inline Mathlib/RingTheory/Ideal/Maps.lean]: We can do this without invoking `Bool` as follows:
```suggestion
  rw [← sSup_pair, sSup_eq_iSup, iSup_subtype', annihilator_iSup, ← iInf_pair, iInf_subtype']
```
(admittedly we should probably have a tactic for this sort of situation)

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 6]
```diff
@@ -112,6 +112,17 @@ theorem torsionOf_eq_bot_iff_of_noZeroSMulDivisors [IsDomain R] [Module.IsTorsio
   · rw [mem_torsionOf_iff, smul_eq_zero] at hr
     tauto
 
+theorem torsionOf_eq_annihilator_span_singleton {R M : Type*} [CommSemiring R]
+    [AddCommMonoid M] [Module R M] (x : M) : torsionOf R M x = (R ∙ x).annihilator := by
+  have := (Submodule.annihilator_span_singleton (R := R) (M := M) x).symm
+  simpa [torsionOf]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Torsion/Basic.lean]: Assuming the `simpNF` linter does not complain I think that if we swap sides, the RHS would make a good `simp`-normal form. So how about:
```suggestion
@[simp]
theorem annihilator_span_singleton_eq_torsionOf
    {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M] (x : M) :
    (R ∙ x).annihilator = torsionOf R M x := by
  simpa [torsionOf] using Submodule.annihilator_span_singleton x
```

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 7]
```diff
@@ -112,6 +112,17 @@ theorem torsionOf_eq_bot_iff_of_noZeroSMulDivisors [IsDomain R] [Module.IsTorsio
...
+
+/-- The annihilator of a module is the intersection of the torsion ideals of its elements. -/
+theorem _root_.Module.annihilator_eq_iInf_torsionOf :
+    Module.annihilator R M = ⨅ x : M, torsionOf R M x := by
+  ext r
+  simp [Module.mem_annihilator, mem_torsionOf_iff]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Torsion/Basic.lean]: In fact `mem_torsionOf_iff` is already tagged with `simp` so this can be just:
```suggestion
  simp [Module.mem_annihilator]
```

**Review by ocfnash — APPROVED** [review]
Thanks, and sorry you had such a wait for review.

Please apply the suggestions and then feel free to merge 🎉 

bors d+
